US08222416B2
To a solution of 1-(1-benzenesulfonyl-5-methyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-ethanol (3.13 g, 8.15 mmol) in dichloromethane (150 ml) was added Dess-Martin periodinane (5.18 g, 12.2 mmol) at 25° C. The reaction mixture was stirred at 25° C. for 1 h and then quenched with a saturated aqueous sodium bicarbonate solution (40 mL). The mixture was extracted with ethyl acetate (200 mL), washed with a saturated aqueous sodium bicarbonate solution (40 mL×3), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. The residue was purified by flash column chromatography (silica gel from QingDao, 200-300 mesh, 60% dichloromethane/hexanes) to afford 1-(1-benzenesulfonyl-5-methyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-ethanone (2.8 g, 90%) as a light yellow solid: LC/MS m/e calcd for C21H22N2O3S [M+H]+ 383.49, observed 382.8.

reactant | 1-(1-benzenesulfonyl-5-methyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-ethanol | 8.15 mmol, 3.13 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)C)C(CC2CCCC2)O | C21H24N2O3S
reactant | Dess-Martin periodinane | 12.2 mmol, 5.18 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 1-(1-benzenesulfonyl-5-methyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-ethanone | 2.8 g, 90% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)C)C(CC2CCCC2)=O | C21H22N2O3S
